US08466283B2
Step 6: Preparation of 2-amino-N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]pyrimidine-5-carboxamide
7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine (100 mg, 0.22 mol) was dissolved in DMF (5 mL), and Intermediate B (46 mg, 0.33 mmol) was added. PYBOP (173 mg, 0.33 mmol) and diisopropylethylamine (0.16 mL, 0.89 mmol) were subsequently added, and the mixture was stirred at rt overnight. EtOAc was added, and the solids were isolated by vacuum filtration to give the title compound (42.7 mg, 40%): HPLC MS RT=1.09 min, MH+=481.2; 1H NMR (DMSO-d6+2 drops TFA-d) δ: 9.01 (2H, s), 8.04 (1H, d), 7.43 (1H, d), 4.54 (2H, m), 4.34 (2H, br t), 4.23 (2H, m), 4.04 (2H, m), 4.00 (3H, s), 3.65 (2H, br t), 3.52 (2H, m), 3.31 (2H, m), 3.18 (2H, m), 2.25 (2H, m).

reactant | 7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine | 0.22 mol, 100 mg | COC1=C(C=CC=2C=3N(C(=NC12)N)CCN3)OCCCN3CCOCC3 | C18H25N5O3
reactant | PYBOP | 0.33 mmol, 173 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.89 mmol, 0.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-amino-N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]pyrimidine-5-carboxamide | 42.7 mg, 40% | NC1=NC=C(C=N1)C(=O)NC1=NC=2C(=C(C=CC2C=2N1CCN2)OCCCN2CCOCC2)OC | C23H28N8O4
